US08044043B2
8,9-Dihydro-5H-cyclohepta[b]pyridin-6(7H)-one.
In an oven-dried 500 mL round-bottomed flask was OXALYL CHLORIDE (3.42 mL, 39.1 mmol) in CH2Cl2 (100 mL) to give a colorless solution at −55° C. under nitrogen. DMSO (5.54 mL, 78 mmol) was added dropwise over 10 min. After the solution was stirred for an additional 30 min, 6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-6-ol (5.79 g, 35.5 mmol) (azeotroped with dry benzene) dissolved in 20 ml CH2Cl2 (plus 20 ml rinse) was added via canuula over 5 min. The reaction mixture was stirred at −50-−55° C. for an additional 40 min (the solution became milky). Et3N (24.74 mL, 178 mmol) was added via syringe at −50° C. and the reaction mixture was stirred for 30 min (Gel like and difficult to stir. Needs occasional shaking at ambient temperature). 100 ml water was added, and the layers were separated. The aqueous layer was extracted with CH2Cl2 (2×100 ml). The combined organic layers were dried with Na2SO4, and concentrated to a tan oil with some solids. Purification by FCC up to 10% MeOH/CH2Cl2 afforded the desired product as an orange oil (4.947 g, 86% for 4 steps). 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 8.28-8.38 (m, 1 H) 7.37 (d, J=7.63 Hz, 1 H) 7.00-7.13 (m, 1 H) 3.65 (s, 2 H) 3.10-3.18 (m, 2 H) 2.50-2.60 (m, 2 H) 2.01 (dd, J=6.71, 4.88 Hz, 2 H); 13C NMR (126 MHz, CHLOROFORM-d) δ ppm 207.23 (s, 1 C) 160.24 (s, 1 C) 147.98 (s, 1 C) 137.20 (s, 1 C) 128.85 (s, 1 C) 122.25 (s, 1 C) 48.89 (s, 1 C) 43.96 (s, 1 C) 36.15 (s, 1 C) 24.70 (s, 1 C).

reactant | DMSO | 78 mmol, 5.54 mL | CS(=O)C | C2H6OS
reactant | 6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-6-ol | 35.5 mmol, 5.79 g | N1=C2C(=CC=C1)CC(CCC2)O | C10H13NO
reactant | Et3N | 178 mmol, 24.74 mL | CCN(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 8,9-Dihydro-5H-cyclohepta[b]pyridin-6(7H)-one | 4.947 g, 86% | N1=C2C(=CC=C1)CC(CCC2)=O | C10H11NO
